US05859007
2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide
70 mg of 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide, prepared as in Intermediate 70, is dissolved in 2 mL of CHCl3 and 5 mL of TFA is added. The reaction mixture is stirred for 6 h and the solvents were removed in vacuo. The residue is purified by silica gel flash column chromatography using hexane/EtOAc 40:60 as eluent to afford the 40 mg of the title compound: 1H NMR (400 MHz, DMSO-d6) δ7.73 (dd, 1H, J=8.9, 5.1), 7.41-7.18 (m, 12H), 7.08 (dd, 1H, J=7.3, 2.0), 6.97 (dd, 1H, J=8.9, 1.7), 6.92 (dd, 1H, J=7.2, 2.0), 6.84 (dd, 1H,J=9.1, 2.0), 5.01 (m, 1H), 4.22 (m, 3H), 3.75 (dd, 1H, J=16.5, 6.4), 3.56 (dd, 1H, J=16.5, 6.4), 1.06 (t, 6H, J=6.8); low resolution MS (FAB) m/e 660 (MH+); Tr =12.32 min. (HPLC Column: Dynamax C-8 2 mL/min., 50-90% Acetonitrile in aqueous TFA (0.1% v/v) over 15 min.).

reactant | 2-[3-(6-Fluoro-1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide | 70 mg | FC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H37F4N5O6
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-trifluoromethoxy-phenyl)-acetamide | 40 mg | FC1=CC=C2C(=NNC2=C1)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C35H29F4N5O4
